Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-7.13305126248
[H:1].[O:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.44339647717
[C:4]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-5.57902316202
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.60859576003
[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]1[H:12],-1.70934351029
[O:1].[O:2]>>[O:1]=[O:2],-5.40457079
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],-1.06232183362
[O:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:8].[O:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:9][H:10],1.69185096642
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:3][H:4],6.11852889766
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[O:11][H:12],-3.82302095874
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[O:1][O:2][C:3]([H:4])[H:5],0.388023827531
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:10][C:11][H:12],4.31968802687
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:8](\[O:7][C:5][H:6])[C:9]([H:10])([H:11])[H:12],-0.1112903904599999
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3],1.98393920556
[C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-6.69736683959
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.61026711842
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:3],5.44361636809
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-5.65539535706
[C:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],5.617760337819999
[C:2](#[C:3][C:4]([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2](/[C:3]=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.58243926446
[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:4][O:5][H:6]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-0.28313121035100003
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:8][O:9][H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],3.22831337639
[O:1][C@:2]([H:3])([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][H:5],0.45018541175
[H:1][C:2]([C:3]#[C:11][H:12])([C:4]([H:5])([C:6]([H:7])=[C:8][H:9])[H:10])[H:13]>>[H:1][C:2]=[C:3]1[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-1.80687641046
[O:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]#[C:4],7.05351429907
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13],5.32575648532
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[C:1]#[C:2][C:7]([H:8])([O:9][H:10])[O:11][H:12].[C:3]([H:4])([H:5])[H:6],3.3151903326700003
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-7.68447641128
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],2.7266904494200004
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],4.56409006976
